### PR TITLE
Turn some asserts into standalone lemmas in Muddy Children example

### PR DESCRIPTION
**Pull request by wkolowski**
This PR only deals with the `assert`s  for which I was pretty sure everything will go well. I will try do deal with the remaining ones in a separate PR.

### CODE REVIEW

File: theories/Examples/Tutorial/MuddyChildrenRounds.v [hunk 1]
```diff
@@ -749,6 +749,60 @@ Proof.
...
+
+Lemma MC_component_invariant_helper_from_constraint :
+  forall (s : composite_state MCVLSM) (i : index) (r : nat) (status : ChildStatus),
+    MC_composite_invariant s ->
+    MC_constraint (existT i receive)
+      (s, Some {| msg_index := i; msg_round := r; msg_status := status |}) ->
+    MC_component_invariant_helper
+    {|
+      st_obs := st_obs (s i); st_rs := Some {| rs_round := r; rs_status := status |}
+    |} (MuddyUnion s).
```
Comment (palmskog) [inline theories/Examples/Tutorial/MuddyChildrenRounds.v:795]: Almost everywhere else in the file, we use the record constructors directly, such as `mkRS x y`. This was originally done to make pattern matching in Equations more obvious. I think we should follow the convention with constructors here. It will also make the code shorter.

File: theories/Examples/Tutorial/MuddyChildrenRounds.v [hunk 2]
```diff
@@ -749,6 +749,60 @@ Proof.
...
+  - by specialize (c i).
+  - apply MC_non_initial_valid_consistent.
+    split; [| done].
+    by apply valid_trace_last_pstate in Hfvt.
+Qed.
+
+Lemma consistent_valid_state_prop :
+  forall (s : composite_state MCVLSM) (i : index),
+    valid_state_prop MC_composite_vlsm s -> st_rs (s i) <> None ->
+      consistent s.
```
Comment (palmskog) [inline theories/Examples/Tutorial/MuddyChildrenRounds.v:780]:
```suggestion
    valid_state_prop MC_composite_vlsm s ->
    st_rs (s i) <> None ->
      consistent s.
```
I think this is much easier to read with one premise per line.

**Review by palmskog — APPROVED** [review]
Looks reasonable, but please address my comments.

File: theories/Examples/Tutorial/MuddyChildrenRounds.v (hunk 2 above)
Comment (wkolowski) [reply theories/Examples/Tutorial/MuddyChildrenRounds.v:780]: Changed.

File: theories/Examples/Tutorial/MuddyChildrenRounds.v (hunk 1 above)
Comment (palmskog) [reply theories/Examples/Tutorial/MuddyChildrenRounds.v]: Fine by me to print (only) these records using constructors, but I don't think it's essential.

Comment (wkolowski) [reply theories/Examples/Tutorial/MuddyChildrenRounds.v]: Ok, I won't change it for now, but I'll keep it in mind.
